US07888400B2
(1,6-Bis(7-methylene-1,5-dithiacyclooctan-3-yl)-2,4,4-trimethylhexane dicarbamate)
7-Methylene-1,5-dithiacyclooctan-3-ol (C-8 Alcohol; 2.9 g, 16 mmole) and dibutyl tin dilaurate (10 mg; Sigma-Aldrich) were dissolved in dry tetrahydrofuran (THF, 10 ml) under nitrogen. The resulting solution was heated to reflux and a solution of 2,4,4-trimethyl-1,6-diisocyanatohexane (1.76 g, 8.2 mmole) in dry THF (10 ml) was added dropwise. The reaction was monitored by thin layer chromatography (ether:methylene chloride 1:1) until the starting C8-Alcohol was consumed. (About 12 hours reaction time.) The solvent was then evaporated to give a viscous clear oil/gum. The oil/gum was purified by dissolving in methanol (15 ml per gram) to give a slightly milky solution. A small quantity of the gum separated. The solution was filtered into another flask and water (3 ml per gram) was added slowly to the filtrate with stirring. During the addition, a white residual material separated from the solution. The liquid solvent was decanted and the residue was washed with methanol:water 3.5:1. The washed residue was dissolved in methylene chloride, BHT inhibitor was added (1 mg per gram), and the solution dried with sodium sulfate. The solvent was evaporated to give a slightly cloudy viscous liquid (4.36 g, 96% yield). The product structure of C-8 Diurethane was confirmed by 1H and 13C NMR.

reactant | 7-Methylene-1,5-dithiacyclooctan-3-ol | 16 mmole, 2.9 g | C=C1CSCC(CSC1)O | C7H12OS2
reactant | 2,4,4-trimethyl-1,6-diisocyanatohexane | 8.2 mmole, 1.76 g | CC(CN=C=O)CC(CCN=C=O)(C)C | C11H18N2O2
reactant | ether methylene chloride | CCOCC.C(Cl)Cl
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
catalyst | dibutyl tin dilaurate | 10 mg | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 1,6-Bis(7-methylene-1,5-dithiacyclooctan-3-yl)-2,4,4-trimethylhexane dicarbamate | 4.36 g, 96% yield | C(N)(O)=O.C(N)(O)=O.C=C1CSCC(CSC1)CC(CC(CCC1CSCC(CSC1)=C)(C)C)C | InChI=1S/C23H40S4.2CH3NO2/c1-18(8-22-16-26-12-20(3)13-27-17-22)9-23(4,5)7-6-21-14-24-10-19(2)11-25-15-21;2*2-1(3)4/h18,21-22H,2-3,6-17H2,1,4-5H3;2*2H2,(H,3,4)
